US06232290B1
To a solution of methyl 6-(1-piperidyl)nicotinate (5.00 g) in a mixed solvent of ethanol (25 ml) and tetrahydrofuran (10 ml) was added hydrazine monohydrate (11.0 ml). The solution was refluxed for 6 hours, during which period additional hydrazine monohydrate (11.0 ml) was added to the mixture. After cooling to ambient temperature, the reaction mixture was added to water (100 ml) and then stirred for 20 minutes at ambient temperature. The resulting precipitates were filtered, washed with water, and dried to give 6-(1-piperidyl)nicotinoylhydrazine (3.44 g), as a white solid.

reactant | methyl 6-(1-piperidyl)nicotinate | 5.00 g | N1(CCCCC1)C1=NC=C(C(=O)OC)C=C1 | C12H16N2O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | hydrazine monohydrate | 11.0 ml | O.NN
reactant | hydrazine monohydrate | 11.0 ml | O.NN
solvent | water | 100 ml | O | H2O
product | 6-(1-piperidyl)nicotinoylhydrazine | 3.44 g | N1(CCCCC1)C1=NC=C(C(=O)NN)C=C1 | C11H16N4O
